US07432256B2
b) 5-Bromo-2-(5-dimethylaminomethyl-4-methyl-imidazol-1-yl)-benzonitrile
A solution of 5-bromo-2-(4-methyl-imidazol-1-yl)-benzonitrile (11.0 g, 42.0 mmol) and N,N-dimethylmethyleneiminium chloride (5.0 g, 53.4 mmol) in DMF (75 mL) was stirred at 90° C. for 16 h. The solvent was evaporated, and the oily residue was partitioned between saturated aqueous sodium bicarbonate solution and Ethyl acetate. The organic phase was dried over sodium sulfate, concentrated and purified by chromatography (SiO2, gradient CH2Cl2 to 35% (CH2Cl2/MeOH=9/1) to afford the tide compound as an oil that solidifies on standing (10.62 g, 79%). MS: m/e=319.2/321.3 [M+H]+.

reactant | 5-bromo-2-(4-methyl-imidazol-1-yl)-benzonitrile | 42.0 mmol, 11.0 g | BrC=1C=CC(=C(C#N)C1)N1C=NC(=C1)C | C11H8BrN3
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-(5-dimethylaminomethyl-4-methyl-imidazol-1-yl)-benzonitrile | BrC=1C=CC(=C(C#N)C1)N1C=NC(=C1CN(C)C)C | C14H15BrN4
